US09428495B2
To a stirred solution of (2R,6R)-6-((benzyloxy)methyl)-2-ethylmorpholin-3-one (362.2 mg, 1.453 mmol) in THF (2 mL) was added 1 M lithium tetrahydroaluminate in THF (2 mL, 2 mmol) dropwise at rt over a 2-min period. The reaction was stirred at rt for 2.5 h after which time it was cooled to 0° C. followed by a dropwise addition of water (0.6 mL) and then 1 M sodium hydroxide in water (0.04 mL). The quenched reaction was warmed to rt, stirred until a granular solid was formed and filtered over a Celite 545 pad rinsing with EtOAc (5 mL), DCM (5 mL) and ethyl ether (5 mL). The filtrate was concentrated and the resultant crude product was purified over silica gel (Biotage, eluting with a gradient of 5-10% MeOH in DCM) followed by combining the desired fractions, concentration and drying in vacuo to provide (2R,6R)-2-((benzyloxy)methyl)-6-ethylmorpholine (50.2 mg, 0.213 mmol, 14.6% yield).

reactant | (2R,6R)-6-((benzyloxy)methyl)-2-ethylmorpholin-3-one | 1.453 mmol, 362.2 mg | C(C1=CC=CC=C1)OC[C@@H]1O[C@@H](C(NC1)=O)CC | C14H19NO3
reactant | lithium tetrahydroaluminate | 1 M | [AlH4-].[Li+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.04 mL | O | H2O
solvent | water | 0.6 mL | O | H2O
solvent | THF | 2 mmol, 2 mL | C1CCOC1 | C4H8O
product | (2R,6R)-2-((benzyloxy)methyl)-6-ethylmorpholine | 0.213 mmol, 50.2 mg, 14.6% yield | C(C1=CC=CC=C1)OC[C@H]1CNC[C@H](O1)CC | C14H21NO2
